US06916819B2
A solution of 3-ethylamino-4-nitro-pyridine 1-oxide (1.5 g, 8.19 mmol), in methanol (30 mL) is hydrogenated over 10% Pd—C (1.5 g) at 50-60 psi for 48 h. The catalyst is removed by filtration through a pad of celite, and the solvent is evaporated under vacuum to afford N3-Ethyl-pyridine-3,4-diamine as an white solid. 1H NMR (300 MHz, CDCl3): δ 7.59 (s, 1H), 7.57 (d, J=2.4 Hz, 1H), 6.56 (d, J=5.4 Hz, 1H), 3.20 (t, J=7.2 Hz, 2H), 1.29 (t, J=7.2 Hz, 3H), m/z 138 [M+1]

reactant | 3-ethylamino-4-nitro-pyridine 1-oxide | 8.19 mmol, 1.5 g | C(C)NC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C7H9N3O3
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd—C | 1.5 g | [Pd] | Pd
product | N3-Ethyl-pyridine-3,4-diamine | C(C)NC=1C=NC=CC1N | C7H11N3
